US08389524B2
(1R)-1-({4-[(3,4-Dihydro-2H-chromen-7-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride
A solution of (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione dihydrochloride (for a preparation see example 5A(j)) (188 mg, 0.503 mmol) and triethylamine (0.175 ml, 1.256 mmol) in chloroform (4.5 ml) and methanol (0.5 ml) at rt was stirred at rt for 15 min then 3,4-dihydro-2H-chromene-7-carbaldehyde (for a synthesis see WO2007067511 Example 19 (chromane-7-carbaldehyde)) (68 mg, 0.419 mmol) in chloroform (2 ml) was added dropwise at rt. The reaction mixture was stirred at rt for 1 h then sodium triacetoxyborohydride (444 mg, 2.096 mmol) was added in one portion and the reaction mixture was stirred at rt overnight. LCMS showed a mixture of product, some residual aldehyde. Additional sodium triacetoxyborohydride (267 mg, 1.258 mmol) was added and the reaction stirred at rt for 6 h. The reaction was quenched with NaHCO3 (aq) (20 ml) and extracted with 20% MeOH/DCM (3×30 ml). The combined organic layers were dried over MgSO4, filtered, evaporated and chromatographed (0-50% MeOH/DCM) to deliver the free base of the title compound as a pale yellow clear oil (49 mg, 0.11 mmol, 26%).

reactant | (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione dihydrochloride | Cl.Cl.NC1CCN(CC1)C[C@@H]1CN2C(C=CC=3C=CC(N1C23)=O)=O
reactant | triethylamine | 1.256 mmol, 0.175 ml | C(C)N(CC)CC | C6H15N
reactant | 3,4-dihydro-2H-chromene-7-carbaldehyde | O1CCCC2=CC=C(C=C12)C=O | C10H10O2
reactant | sodium triacetoxyborohydride | 2.096 mmol, 444 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 1.258 mmol, 267 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | chloroform | 4.5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 0.5 ml | CO | CH4O
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | (1R)-1-({4-[(3,4-Dihydro-2H-chromen-7-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride | 0.11 mmol, 49 mg, 26% | Cl.O1CCCC2=CC=C(C=C12)CNC1CCN(CC1)C[C@@H]1CN2C(C=CC=3C=CC(N1C23)=O)=O | InChI=1S/C26H30N4O3.ClH/c31-24-7-5-20-6-8-25(32)30-22(17-29(24)26(20)30)16-28-11-9-21(10-12-28)27-15-18-3-4-19-2-1-13-33-23(19)14-18;/h3-8,14,21-22,27H,1-2,9-13,15-17H2;1H/t22-;/m1./s1
